US09169259B2
tert-butyl-4-(2-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenoxy)ethyl)piperazine-1-carboxylate (25 mg, 0.042 mmol) was dissolved in dichloromethane (5 mL) that had been saturated by bubbling HCl gas. The solution was stirred at room temperature for 2 h. The solvent was concentrated in vacuo. The residue was purified by preparative-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 10% acetonitrile/90% water (0.1% TFA, v/v) initially, proceeding to 60% acetonitrile/40% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(2-(piperazin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (15 mg, 71%) as a yellow solid. 1H NMR (300 MHz, DMSO+D2O): δ 9.12 (s, 1H), 8.49 (s, 1H), 8.21 (s, 1H), 7.58-7.52 (m, 4 h), 7.27-7.26 (m, 1H), 6.66 (d, 1H, J=7.8 Hz), 6.19 (d, 1H, J=8.4 Hz), 4.51 (brs, 2H), 4.25 (brs, 1H), 3.69-3.37 (m, 12H), 2.08-1.99 (m, 3H), 1.72 (brs, 1H), 1.12 (d, 3H, J=6.3 Hz). LC/MS: 499 [M+H]+, tR=1.08 min. HPLC: 99.25% at 214 nm, 99.12% at 254 nm, tR=4.99 min.

reactant | tert-butyl-4-(2-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenoxy)ethyl)piperazine-1-carboxylate | 0.042 mmol, 25 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=CC(=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C33H42N8O3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(2-(piperazin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 15 mg, 71% | Cl.CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC(=CC=C1)OCCN1CCNCC1)C=CN2 | InChI=1S/C28H34N8O.ClH/c1-21-5-4-13-35(21)27-9-3-8-26(32-27)31-25-20-24(33-36-16-12-30-28(25)36)22-6-2-7-23(19-22)37-18-17-34-14-10-29-11-15-34;/h2-3,6-9,12,16,19-21,29H,4-5,10-11,13-15,17-18H2,1H3,(H,31,32);1H
